US04925591
In dimethylformamide, 2 g of 4-dodecyloxybenzyl bromide synthesized in the same manner as described in Referential Example 17 was reacted with 1.5 g of 4-methoxymethyloxy-3-chlorophenol synthesized in the same manner as described in Example 11 in the presence of NaH to obtain 1.5 g of 4-dodecyloxybenzyl(4-methoxymethyloxy-3-chlorophenyl) ether. According to customary procedures, the methoxymethyl group was removed from the so-obtained compound in the presence of zinc in acetic acid to obtain 1.2 g of 4-dodecyloxybenzyl(4-hydroxy-3-chlorophenyl) ether.

reactant | 4-dodecyloxybenzyl bromide | 2 g | C(CCCCCCCCCCC)OC1=CC=C(CBr)C=C1 | C19H31BrO
reactant | 4-methoxymethyloxy-3-chlorophenol | 1.5 g | COCOC1=C(C=C(C=C1)O)Cl | C8H9ClO3
reactant | NaH | [H-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-dodecyloxybenzyl(4-methoxymethyloxy-3-chlorophenyl) ether | 1.5 g | C(CCCCCCCCCCC)OC1=CC=C(CC2=C(C=CC(=C2Cl)OCOC)OC2=C(C(=C(C=C2)OCOC)Cl)CC2=CC=C(C=C2)OCCCCCCCCCCCC)C=C1 | C54H76Cl2O7
